US07790898B2
1-Benzyl-3-(3-methoxy-phenyl)-piperidine-3-ol
4.22 g magnesium (Mg) in 50 mL THF and a speck of 12 were placed under a nitrogen atmosphere in a three-necked flask equipped with condenser, internal thermometer and dropping funnel. The mixture was heated to 50° C. while stirring and 22.1 ml of 3-bromoanisole in 50 ml THF were added dropwise within 30 minutes. The mixture was then stirred for a further 30 minutes at 70° C. After cooling with ice to 5° C., 22.34 g of N-benzyl-piperidone in 100 ml THF were added dropwise in 60 minutes. The mixture was stirred for a further 15 hours at room temperature. For the hydrolysis, 400 ml of 10% NH4HSO4 solution were added, acidified with dilute HCl, and then extracted with 100 ml of diethyl ether. The organic phase was extracted once with dilute HCl. The combined aqueous phases were made alkaline with NaOH and extracted three times with 100 ml portions of diethyl ether each time. The combined organic phases were concentrated by evaporation. Yield 35.05 g

reactant | magnesium | 4.22 g | [Mg] | Mg
reactant | 3-bromoanisole | 22.1 ml | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | N-benzyl-piperidone | 22.34 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | HCl | Cl | ClH
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-Benzyl-3-(3-methoxy-phenyl)-piperidine-3-ol | C(C1=CC=CC=C1)N1CC(CCC1)(O)C1=CC(=CC=C1)OC | C19H23NO2
